US07326732B2
(i) 5-Bromo-furan-2-carboxylic acid methyl ester (55)
5-Bromo-furan-2-carboxylic acid (2 g, 10.5 mmol) was esterified with MeOH using Method B to give the title compound.

reactant | 5-Bromo-furan-2-carboxylic acid | 10.5 mmol, 2 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | MeOH | CO | CH4O
product | 5-Bromo-furan-2-carboxylic acid methyl ester | COC(=O)C=1OC(=CC1)Br | C6H5BrO3
